US07030128B2
3-Bromo-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine (567 mg, 1.4 mmol) and 4-chloro-2-(1,1-difluoroethyl)pyrimidine (209 mg, 1.17 mmol) were reacted together as described in Example 39, Step 1. Purification by column chromatography on silica using 3% MeOH/CH2Cl2 gave 3-[2-(1,1-difluoroethyl)pyrimidin-4-yl]-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine.

reactant | 3-Bromo-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine | 1.4 mmol, 567 mg | BrC1=CN=C2N1C=CC(=N2)C(C)(O[Si](CC)(CC)CC)C | C15H24BrN3OSi
reactant | 4-chloro-2-(1,1-difluoroethyl)pyrimidine | 1.17 mmol, 209 mg | ClC1=NC(=NC=C1)C(C)(F)F | C6H5ClF2N2
product | 3-[2-(1,1-difluoroethyl)pyrimidin-4-yl]-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine | FC(C)(F)C1=NC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(C)(O[Si](CC)(CC)CC)C | C21H29F2N5OSi
